US07179804B2
1-(3,5-Bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-imidazole-4-carbonitrile
In a pressure vessel dissolve 1-(3,5-Bis-trifluoromethyl-benzyl)-5-iodo-1H-imidazole-4-carbonitrile (0.52 g, 1.2 mmol) in acetonitrile. Add 3-tributylstannanyl-pyridine (0.64 g, 1.7 mmol) and bis(benzonitrile)dichloropalladium(II) (22 mg, 0.06 mmol), and stir at 100° C. After 72 h, quench with sat. aq. NaHCO3, and extract with ether. Wash the organic layer with brine, dry over MgSO4, filter, and concentrate. Purify by radial chromatography on silica gel to give the title compound: MS (ES) 397.2 (M+1); 1H NMR (300 MHz, CDCl3) δ 8.75 (d, J=4.6 Hz, 1H), 8.60 (ap d, 1H), 7.84 (s, 1H), 7.75 (s, 1H), 7.66 (m, 1H), 7.44 (m, 1H), 7.36 (s, 2H), 5.30 (s, 2H).

reactant | 1-(3,5-Bis-trifluoromethyl-benzyl)-5-iodo-1H-imidazole-4-carbonitrile | 1.2 mmol, 0.52 g | FC(C=1C=C(CN2C=NC(=C2I)C#N)C=C(C1)C(F)(F)F)(F)F | C13H6F6IN3
reactant | 3-tributylstannanyl-pyridine | 1.7 mmol, 0.64 g | C(CCC)[Sn](C=1C=NC=CC1)(CCCC)CCCC
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | bis(benzonitrile)dichloropalladium(II) | 0.06 mmol, 22 mg | C1=CC=C(C=C1)C#N.C1=CC=C(C=C1)C#N.Cl[Pd]Cl
product | 1-(3,5-Bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-imidazole-4-carbonitrile | FC(C=1C=C(CN2C=NC(=C2C=2C=NC=CC2)C#N)C=C(C1)C(F)(F)F)(F)F | C18H10F6N4
